US07531532B2
4-(4-{3-[2-(4-Fluorophenyl)acetyl]thioureido}phenoxy)-2-{[4-(1-methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}pyridine
After adding a solution of 2-(4-fluorophenyl)acetyl isothiocyanate in toluene (0.25 M, 3.0 ml) to a solution of 4-(4-aminophenoxy)-2-{[4-(1-methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}pyridine (149 mg) and (+)-10-camphorsulfonic acid (152 mg) in ethanol (4.0 ml) at room temperature, the mixture was stirred for 3 hours. The reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate. The organic layer was washed with saturated aqueous sodium hydrogencarbonate and brine and dried over anhydrous sodium sulfate. The solvent was then distilled off, and the residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate:methanol=98:2 to 97:3) to provide the title compound (88.2 mg, 40%) as white powder.

reactant | 2-(4-fluorophenyl)acetyl isothiocyanate | FC1=CC=C(C=C1)CC(=O)N=C=S | C9H6FNOS
reactant | 4-(4-aminophenoxy)-2-{[4-(1-methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}pyridine | 149 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCN(CC2)C)C=C1 | C22H30N6O2
reactant | (+)-10-camphorsulfonic acid | 152 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | toluene | 0.25 M, 3.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 4.0 ml | C(C)O | C2H6O
product | 4-(4-{3-[2-(4-Fluorophenyl)acetyl]thioureido}phenoxy)-2-{[4-(1-methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}pyridine | 88.2 mg, 40% | FC1=CC=C(C=C1)CC(=O)NC(NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCN(CC2)C)C=C1)=S | C31H36FN7O3S
